US04148998
To a solution of potassium phthalimide (0.1 mole) in about 50 ml of dimethylformamide (DMF) is added 1 equivalent of ethyl-2-bromopentanoate. The temperature is maintained at about 60° C. for 10 minutes. Chloroform is added to the cooled DMF solution and the mixture is poured into water. The phases are separated and the aqueous phase is extracted with chloroform. The chloroform extracts are combined, extracted with 0.1 N sodium hydroxide and with water. After drying over sodium sulfate, the chloroform is removed to give ethyl α-phthalimidopentanoate.

reactant | potassium phthalimide | 0.1 mole | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | ethyl-2-bromopentanoate | 1 equivalent | C(C)OC(C(CCC)Br)=O | C7H13BrO2
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | water | O | H2O
solvent | dimethylformamide | about 50 ml | CN(C=O)C | C3H7NO
product | ethyl α-phthalimidopentanoate | C1(C=2C(C(N1C(C(=O)OCC)CCC)=O)=CC=CC2)=O | C15H17NO4
